US09056865B2
Step 3: 4,5-dichloro-2-(methylthio)pyrimidine
A suspension of 5-chloro-2-(methylthio)pyrimidin-4(3H)-one (24 g, 0.136 mol) in POCl3 (200 mL) was heated at reflux for 2 hrs. The reaction mixture was then cooled to room temperature and was concentrated to remove excessive of POCl3. The residue was then treated with H2O (150 mL) and was adjusted to pH=7˜8 with aq. K2CO3. The resulting mixture was extracted with CH2Cl2 (50 mL×4). The combined organic layers were washed with brine (50 mL), dried over Na2SO4 and filtered. The filtrate was concentrated and dried on vacuum to give title compound (23 g, 86%) as a light brown solid.

reactant | 5-chloro-2-(methylthio)pyrimidin-4(3H)-one | 0.136 mol, 24 g | ClC=1C(NC(=NC1)SC)=O | C5H5ClN2OS
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4,5-dichloro-2-(methylthio)pyrimidine | 23 g, 86% | ClC1=NC(=NC=C1Cl)SC | C5H4Cl2N2S
